### PR TITLE
feat(Mathematics): von Neumann self-adjointness criterion for LinearP…

### PR DESCRIPTION
**Pull request by adambornemann-glitch**
Adds the von Neumann basic criterion for self-adjointness of a partially-defined operator.

What this adds:
- `LinearPMap.isSelfAdjoint_of_surjective_addSub`
  (`PhyslibAlpha/Mathematics/InnerProductSpace/LinearPMapSelfAdjoint.lean`) — a symmetric,
  densely-defined `A : H →ₗ.[ℂ] H` whose ranges `(A + i)` and `(A - i)` are both all of `H`
  is self-adjoint.
- One `public import` line in `PhyslibAlpha.lean` registering the file.

References:
- Reed–Simon, *Methods of Modern Mathematical Physics I*, Theorem VIII.3 (pp. 256–257).
- Hall, *Quantum Theory for Mathematicians*, Prop. 9.23.

Reviewer map:
- one file, one lemma (~40-line proof).

### CODE REVIEW

**Comment by adambornemann-glitch** [comment]
Apologies for not including the context: 
`isSelfAdjoint_of_surjective_addSub` is the first piece of a small stack for the momentum-operator essential-self-adjointness TO-DO in `Momentum.lean`

**Comment by adambornemann-glitch** [comment]
Update:
I moved `isSelfAdjoint_of_surjective_addSub` inside Physlib.Mathematics.LinearPMap.lean, deleted the my file from alpha and updated PhyslibAlpha.lean.

I also made the lemma a little tighter, though I can revert it back to it's original form if you'd like.

**Comment by adambornemann-glitch** [comment]
Update:
fixed author ordering and fixed a docstring issue.

**Review by nateabr — COMMENTED** [review]
This looks correct for the most part; however, I wonder if this is the correct place to put this result, even though it is a pure math result. The rest of this file is ring theoretic algebra over an arbitrary ring, and maybe a self adjointness criteria about hilbert spaces does not belong along side them. 

Could we look into placing this result in QuantumMechanics/DDimensions/Operators/Unbounded.lean
as it looks like the rest of the API for isselfadjoint lives there.

**Comment by adambornemann-glitch** [comment]
Makes sense, it's Hilbert-space theory, not ring algebra. Moving it into Unbounded.lean's self-adjoint section (C.2), right next to the rest of the IsSelfAdjoint API.

**Comment by nateabr** [comment]
awaiting-author

(please remove the tag when you're ready for another review)

**Comment by adambornemann-glitch** [comment]
Moved the lemma into Unbounded.lean's and renamed it to IsSelfAdjoint.of_surjective_add_sub to match the local convention. Ready for another look!

*edit* fixing conflicts.

**Comment by adambornemann-glitch** [comment]
awaiting-author

**Comment by adambornemann-glitch** [comment]
-awaiting-author

**Comment by nateabr** [comment]
Great work on your first PR!! 

I am tagging this for final approval (there might be more comments to work on)

Hope this is the first of many PR's :)

**Comment by adambornemann-glitch** [comment]
Thank you!  I look forward to many more back and forths ^_^.

File: Physlib/QuantumMechanics/Operators/Unbounded.lean [hunk 1]
```diff
@@ -702,6 +702,43 @@ lemma IsSelfAdjoint.real_smul [CompleteSpace H] (h : IsSelfAdjoint T) {r : ℝ}
...
   neg_eq_neg_one_smul T ▸ smul h (by norm_num) (by norm_num)
 
+
+/-- Self-adjointness from surjectivity of `T ± i`. A symmetric (`T.IsSymmetric`),densely-defined
+operator `T` for which `T + i` and `T - i` are both surjective onto `H`, is self-adjoint. -/
+lemma IsSelfAdjoint.of_surjective_add_sub [CompleteSpace H] (hsym : T.IsSymmetric)
+    (hdense : Dense (T.domain : Set H))
+    (hplus : ∀ φ : H, ∃ ψ : T.domain, T ψ + I • (ψ : H) = φ)
+    (hminus : ∀ φ : H, ∃ ψ : T.domain, T ψ - I • (ψ : H) = φ) :
+    IsSelfAdjoint T := by
```
Comment (morrison-daniel) [inline Physlib/QuantumMechanics/Operators/Unbounded.lean]:
```suggestion
    (hminus : ∀ φ : H, ∃ ψ : T.domain, T ψ - I • (ψ : H) = φ) : IsSelfAdjoint T := by
```
You can put these on the same line when they fit

File: Physlib/QuantumMechanics/Operators/Unbounded.lean [hunk 2]
```diff
@@ -702,6 +702,43 @@ lemma IsSelfAdjoint.real_smul [CompleteSpace H] (h : IsSelfAdjoint T) {r : ℝ}
...
+  rw [isSelfAdjoint_def]
+  have hle : T ≤ T.adjoint := (isSymmetric_def.mp hsym).le_adjoint hdense
+  refine le_antisymm ?_ hle
```
Comment (morrison-daniel) [inline Physlib/QuantumMechanics/Operators/Unbounded.lean]:
```suggestion
  apply le_antisymm _ hle
```
Prefer to use apply instead of refine when possible

File: Physlib/QuantumMechanics/Operators/Unbounded.lean [hunk 3]
```diff
@@ -702,6 +702,43 @@ lemma IsSelfAdjoint.real_smul [CompleteSpace H] (h : IsSelfAdjoint T) {r : ℝ}
...
+  -- `ker (T† - i) = 0`, using surjectivity of `T + i`.
```
Comment (morrison-daniel) [inline Physlib/QuantumMechanics/Operators/Unbounded.lean]:
```suggestion
```
Avoid inline comments within proofs unless it's a very long proof, ideally your code should speak for itself. It's okay to have these for yourself when working but try to remove them for the actual PR.

File: Physlib/QuantumMechanics/Operators/Unbounded.lean [hunk 4]
```diff
@@ -702,6 +702,43 @@ lemma IsSelfAdjoint.real_smul [CompleteSpace H] (h : IsSelfAdjoint T) {r : ℝ}
...
+  have hxin : (x : H) ∈ T.adjoint.domain := hle.1 x.2
+  let X : T.adjoint.domain := ⟨x, hxin⟩
+  have hxeq : T.adjoint X = T x := (hle.2 (x := x) (y := X) rfl).symm
+  have hdiff : T.adjoint (W - X) = I • ((W - X : T.adjoint.domain) : H) := by
+    rw [LinearPMap.map_sub, hxeq]
+    change T.adjoint W - T x = I • ((W : H) - (x : H))
+    rw [smul_sub, sub_eq_sub_iff_sub_eq_sub]
+    exact hx.symm
+  obtain rfl : w = (x : H) := sub_eq_zero.mp (hker (W - X) hdiff)
+  exact ⟨hw, x.2, hxeq⟩
```
Comment (morrison-daniel) [inline Physlib/QuantumMechanics/Operators/Unbounded.lean]:
```suggestion
  apply le_of_eqLocus_ge
  intro w hw
  let W : T.adjoint.domain := ⟨w, hw⟩
  obtain ⟨x, hx⟩ := hminus (T.adjoint W - I • (W : H))
  set X : T.adjoint.domain := ⟨x, hle.1 x.2⟩ with hX
  have hxeq : T.adjoint X = T x := (hle.2 (x := x) (y := X) rfl).symm
  have hdiff : T.adjoint (W - X) = I • ((W - X) : H) := by
    rw [LinearPMap.map_sub, hxeq, hX, Subtype.coe_mk, smul_sub, sub_eq_sub_iff_sub_eq_sub, hx]
  have hker : ∀ w : T.adjoint.domain, T.adjoint w = I • (w : H) → (w : H) = 0 := by
    intro w hw
    obtain ⟨v, hv⟩ := hplus (w : H)
    suffices ⟪↑w, T v + I • v⟫_ℂ = 0 by
      exact inner_self_eq_zero.mp (hv ▸ this)
    rw [inner_add_right, inner_smul_right, ← adjoint_isFormalAdjoint hdense w v, hw, 
      inner_smul_left, conj_I]
    ring
  obtain rfl : w = (x : H) := sub_eq_zero.mp (hker (W - X) hdiff)
  exact ⟨hw, x.2, hxeq⟩
```
A few things going on here:
* moved hker lower so the have statements all occur right before they are used in the next line
* removed some extra have statements - it's nice for readability if you limit the number of have statements in a proof
* used `set X : ... := ... with hX` which is a trick to get a hypothesis `hX` which says `X = ⟨x, hle.1 x.2⟩` which is nice for rewrites to avoid using the change line you had
* used `suffices` which is often a nicer way to phrase something rather than have statements since it makes clear at the beginning what you are trying to do

**Review by morrison-daniel — COMMENTED** [review]
Welcome to Physlib, happy to have you contributing! I added a few more stylistic changes to your proof which I think helps readability. To be clear, nothing you did was wrong, but I think these tricks help clean it up a bit. If you have any questions about what I suggested please ask!

File: Physlib/QuantumMechanics/Operators/Unbounded.lean (hunk 4 above)
Comment (adambornemann-glitch) [reply Physlib/QuantumMechanics/Operators/Unbounded.lean]: That definitely improves readability.  Question - is it better/faster to simply apply your suggestions here using the button, or is it better to apply them all together in my environment and then push it again?

**Comment by adambornemann-glitch** [comment]
-awaiting-author

**Review by morrison-daniel — APPROVED** [review]
